US06878714B2
2-{[2-(Azetidin-3-yloxy)-pyridin-4-ylmethyl]-amino}-N-(4-tert-butyl-phenyl)nicotinamide
2-{[2-(1-Benzhydryl-azetidin-3-yloxy)-pyridin-4-ylmethyl]-amino}-N-(4-tert-butyl-phenyl)-nicotinamide (210 mg) was heated at reflux with Et3SiH (5 ml) and TFA (15 ml) for 9 h. The mixture was concentrated, then diluted with CH2Cl2 (50 ml) and washed with sat'd NaHCO3 (50 ml) and brine (30 ml), dried over MgSO4 and purified by silica gel chromatography (10% MeOH/2M NH3 90% EtOAc) to afford the product as a yellow solid. M+H 432.5. Calc'd for C25H29N5O2: 431.2.

reactant | 2-{[2-(1-Benzhydryl-azetidin-3-yloxy)-pyridin-4-ylmethyl]-amino}-N-(4-tert-butyl-phenyl)-nicotinamide | 210 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC1=NC=CC(=C1)CNC1=C(C(=O)NC2=CC=C(C=C2)C(C)(C)C)C=CC=N1 | C38H39N5O2
reactant | Et3SiH | 5 ml | [SiH](CC)(CC)CC | C6H16Si
reactant | TFA | 15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-{[2-(Azetidin-3-yloxy)-pyridin-4-ylmethyl]-amino}-N-(4-tert-butyl-phenyl)nicotinamide | N1CC(C1)OC1=NC=CC(=C1)CNC1=C(C(=O)NC2=CC=C(C=C2)C(C)(C)C)C=CC=N1 | C25H29N5O2
